US05023253
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-(1-methyl-4-piperidinyloxy)-azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg) in 2 ml of 4-hydroxy-1-methylpiperidine was stirred at room temperature under nitrogen for 45 minutes with 500 mg of a 1.6% solution of KOH in 4-hydroxy-1-methylpiperidine. The reaction mixture was diluted with ether, then decomposed with dry ice. Components of etherial solution were separated on a silica gel column using triethylamine, which elutes the 4-hydroxy-1-methylpiperidine, and then a mixture of acetone-triethylamine 2:1, which elutes the product. The product was further purified by preparative thin layer chromatography on silica gel with a mixture of chloroform-methanol 7:3. This procedure gave 55 mg (44%) of the title compound, having a melting point of 47°-65° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
solvent | 4-hydroxy-1-methylpiperidine | 2 ml | OC1CCN(CC1)C | C6H13NO
solvent | ether | CCOCC | C4H10O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-(1-methyl-4-piperidinyloxy)-azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate | 55 mg, 44% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OC1CCN(CC1)C)C)=O)CC1C2N1)OC | InChI=1S/C20H27N3O5.CH3NO2/c1-10-16(25)15-14(17(26)18(10)28-11-4-6-22(2)7-5-11)12(9-24)20(27-3)19-13(21-19)8-23(15)20;2-1(3)4/h11-13,19,21,24H,4-9H2,1-3H3;2H2,(H,3,4)
